US09315475B2
Cyanomethylenetributylphosphorane (2 eq) was added to a stirred mixture of (2R,5R)-5-hydroxymethyl-2-{2-[2-((S)-2-methoxycarbonylamino-3,3-diphenyl-propionylamino)-phenyl]-ethyl}-morpholine-4-carboxylic acid tert-butyl ester (1 eq) and thiophenol (1.5 eq) in toluene (0.04 M). The mixture was stirred at 90° C. for 2 h, cooled to room temperature and evaporated to dryness. The residue was purified by automated silica gel flash chromatography system eluted with a gradient 0% to 100% of EtOAc/Hex to afford tert-butyl (2R,5S)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(phenylsulfanyl)methyl]morpholine-4-carboxylate which was then treated with TFA following the procedure described in step 2 of Example 2 to afford the title compound.

reactant | Cyanomethylenetributylphosphorane | 2 eq | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
reactant | (2R,5R)-5-hydroxymethyl-2-{2-[2-((S)-2-methoxycarbonylamino-3,3-diphenyl-propionylamino)-phenyl]-ethyl}-morpholine-4-carboxylic acid tert-butyl ester | 1 eq | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@H]1CO)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O | C35H43N3O7
reactant | thiophenol | 1.5 eq | C1(=CC=CC=C1)S | C6H6S
solvent | toluene | 0.04 M | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (2R,5S)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-[(phenylsulfanyl)methyl]morpholine-4-carboxylate | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CSC1=CC=CC=C1)C(=O)OC(C)(C)C | C41H47N3O6S
